US06734306B2
C. (3S)-3-(1-Piperazinyl)-1-azabicyclo[2.2.2]octane
A mixture of (3S)-3-(4-benzyl-1-piperazinyl)-1-azabicyclo[2.2.2]octane (1.25 g, 4.37 mmol) and 400 mg of Pd(OH)2 (20 wt % on carbon) in MeOH (60 mL) was stirred at room temperature under hydrogen atmosphere (4 atm) for 6 h. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated in vacuo to give a product (850 mg, quant.).

reactant | (3S)-3-(4-benzyl-1-piperazinyl)-1-azabicyclo[2.2.2]octane | 4.37 mmol, 1.25 g | C(C1=CC=CC=C1)N1CCN(CC1)[C@@H]1CN2CCC1CC2 | C18H27N3
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd(OH)2 | 400 mg | [OH-].[OH-].[Pd+2]
product | (3S)-3-(1-Piperazinyl)-1-azabicyclo[2.2.2]octane | N1(CCNCC1)[C@@H]1CN2CCC1CC2 | C11H21N3
